US06353017B1
A. 4-(2-Chloroethylsulfonyl)-benzoic acid
4-(2-Chloroethylsulfanyl)-benzoic acid (18.4 mmol) is suspended in methylene chloride (60 ml) and cooled to −10C. m-Chloroperbenzoic acid (38.6 mmol) are added dropwise in methylene chloride (60 ml) and the mixture is stirred for e hours at −10° C. The mixture is diluted methylene chloride (100 ml) and a 5% solution of sodium thiosulfate in water is added and the mixture vigorously stirred. The mixture is extracted, washed with water and and dried over sodium sulfate and evaporated. The crude product is recrystallized from ethylacetate and the solid filtered of and dried (vacuum). 2.19 g of a pale powder with mp. 142-144° C., Rf=0.37 (CH2Cl2/MeOH=9:1) is obtained.

reactant | 4-(2-Chloroethylsulfanyl)-benzoic acid | 18.4 mmol | ClCCSC1=CC=C(C(=O)O)C=C1 | C9H9ClO2S
reactant | m-Chloroperbenzoic acid | 38.6 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-Chloroethylsulfonyl)-benzoic acid | 2.19 g | ClCCS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C9H9ClO4S
